US07238714B2
Step 1. 5-Chloro-2-[(5-chloropyridin-3-yl)oxy]nicotinic acid
A mixture of 2,5-dichloronicotinic acid (Syn. Commun. 1989, 19, 553–9, 500 mg, 2.6 mmol), 3-chloro-5-hydroxypyridine (404 mg, 3.1 mmol), copper bronze (36 mg, 0.57 mmol), cuprous iodide (40 mg, 0.21 mmol) and potassium carbonate (792 mg, 5.7 mmol) in N,N-dimethylforamide (7 mL) was heated under reflux for 3 h. The reaction mixture was filtered through a pad of Celite® and the filtrate was concentrated. The residue was diluted with water (10 mL) and the mixture was acidified with 2 N hydrochloric acid (2 mL). Precipitateed solids were collected by filtration and dried under reduced presssure at 40° C. to afford 349 mg of the title compound: 1H-NMR (CDCl3) δ 8.37 (3H, br.s), 7.96 (2H, br.s), a peak of COOH was not observed; MS (ESI) m/z 285 (M+H)+.—

reactant | 2,5-dichloronicotinic acid | 2.6 mmol, 500 mg | ClC1=C(C(=O)O)C=C(C=N1)Cl | C6H3Cl2NO2
reactant | 3-chloro-5-hydroxypyridine | 3.1 mmol, 404 mg | ClC=1C=NC=C(C1)O | C5H4ClNO
reactant | potassium carbonate | 5.7 mmol, 792 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylforamide | 7 mL | CN(C=O)C | C3H7NO
catalyst | copper bronze | 0.57 mmol, 36 mg | [Cu] | Cu
product | 5-Chloro-2-[(5-chloropyridin-3-yl)oxy]nicotinic acid | 349 mg | ClC=1C=NC(=C(C(=O)O)C1)OC=1C=NC=C(C1)Cl | C11H6Cl2N2O3
